US07737166B2
2-(Dimethylamino)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (#75)
2-(Dimethylamino)-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (I-171) (0.44 g, 1.39 mmol) was suspended in dimethyl sulfoxide (10 ml), then triethylamine (0.42 ml 3.03 mmol) and (3S)-3-(dimethylamino)pyrrolidine (0.38 ml, 3.00 mmol) were added, followed by stirring at an external temperature of about 110° C. for 4 hours. This was diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=50:1 to 10:1) to obtain a brown amorphous substance (0.51 g, 83%).

reactant | 2-(Dimethylamino)-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | 1.39 mmol, 0.44 g | CN(C=1OC=2C(N1)=C(C(=C(C2F)C=2N=C(SC2)C)C)C#N)C | C15H13FN4OS
reactant | triethylamine | 3.03 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 3.00 mmol, 0.38 ml | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Dimethylamino)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | CN(C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C=2N=C(SC2)C)C)C#N)C | C21H26N6OS
